Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
headache, nausea and vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo woman who presents with 2 days of N/V and HA. HA is 
occipital radiating to the periorbital region, bilateral and 
associated with visual changes(blue spots on white background)+ 
phonophobia and photophobia. No tinnitis, diplopia.
She was recently admitted for hypotension (pt reports was 
___, nausea, HA, weakness and acute renal failure 
(creatinine 3.6 with baseline 1.1) felt to be either ATN from 
hypotension or AIN from ciprofloxacin. She was given IVF and her 
creatinine had improved to 3.2 on discharge ___. Her lisinopril 
and HCTZ were stopped, levothyroxine decreased for low TSH.
 
Past Medical History:
Hypothyroidism  
Migraine headaches
neck lipoma  
Hypertension  
Frequent UTI's  
Asthma  
One hospitalization for pneumonia  
H/o laminectomy  

 
Social History:
___
Family History:
Father had diabetes, CVA's. Mother died in her ___. Brother, 
son have no medical problems.  

 
Physical Exam:
Physical Exam:  
Vitals: T: 98.4 BP: 121/60 P: 68 R: 16 O2: 98%RA  
General: Alert, oriented, no acute distress; Obese  
HEENT: MMM  
Neck: supple  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, ___ systolic murmur at RUSB.  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding. Mild left CVAT.  
Ext: Warm, well perfused, no edema.  
Neuro: CN ___ intact, with nystagmus noted on right horizontal 
gaze. Strength ___ upper and lower extrem bilat, sensation 
intact to lt touch in all ext.
 
Pertinent Results:
___ 03:55PM   CORTISOL-6.8
___ 03:55PM   CALCIUM-9.4 PHOSPHATE-4.4 MAGNESIUM-1.7
___ 03:55PM   GLUCOSE-75 UREA N-32* CREAT-2.7* SODIUM-142 
POTASSIUM-4.7 CHLORIDE-106 TOTAL CO2-28 ANION GAP-13
___ 05:48PM   LACTATE-1.0
___ 03:55PM URINE  HOURS-RANDOM
___ 03:55PM URINE  GR HOLD-HOLD
___ 03:55PM   WBC-11.6* RBC-4.07* HGB-11.7* HCT-33.6* 
MCV-82 MCH-28.7 MCHC-34.8 RDW-14.1
___ 03:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 12:13AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 12:13AM   WBC-12.2* RBC-3.98* HGB-11.3* HCT-32.5* 
MCV-82 MCH-28.3 MCHC-34.6 RDW-13.9
___ 12:13AM   NEUTS-65.0 ___ MONOS-3.9 EOS-2.5 
BASOS-0.4
 
Brief Hospital Course:
# Headache, N/V: symptoms were consistent with a migraine 
headache. She was given Fioricet, Imitrex, and Zofran with 
marked improvement in symptoms. There was no evidence of 
increased intracranial pressure on exam. On head CT here is no 
intracranial hemorrhage, mass effect, shift of midline 
structures, or edema. She was discharged home with instructions 
to take Imitrex at headache onset and Percocet as needed for 
pain. She was also given a scipt for Zofran for nausea. Note, 
she should not take hormone replacement medications in the 
future given that she had aura associated with her migraine. 
.  
# ARF: Improved from 3.6 to 2.7 while in ___. Thought to be 
ATN from hypotension vs AIN from ciprofloxacin. Patient to 
follow up with renal medicine as an outpatient. 
.  
# Hypothyroidism: TSH very low on recent admission in the 
setting of ARF. Her levothyroxine dose was reduced to 125mcg. 
TSH was still low during this admission but trending in the 
right direction.  It should be rechecked in a few weeks as an 
outpatient.
 
Medications on Admission:
Levothyroxine 125 mcg daily (has not filled rx or taken this 
since d/c ___  
Darvocet prn (infrequent) 
Omeprazole
 
Discharge Medications:
1. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain: do not exceed 4 g of 
tylenol in 24 hours. Do not drive while taking this medication. 
Tablet(s) 
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Sumatriptan Succinate 50 mg Tablet Sig: One (1) Tablet PO 
ONCE (Once) for 1 doses: take at onset of headache, may repeat 
in 2 hours if pain has not subsided.
Disp:*20 Tablet(s)* Refills:*0*
6. ZOFRAN ODT 4 mg Tablet, Rapid Dissolve Sig: ___ Tablet, Rapid 
Dissolves PO every eight (8) hours as needed for nausea.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
migrainous headache with aura

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a headache and nausea. We think your 
headache pain was caused by a migraine which then triggered your 
nausea. You should take Percocet ___ tabs every ___ hrs as 
needed for pain. Do not exceed 4 g of Tylenol in 24 hours. 
We also gave you a prescription for Imitrex. If you start to 
feel a migraine you should take this medication. You can repeat 
it once in 2 hours if the pain is persistant.
We also gave you a medication for Nausea called Zofran. You can 
take this medication ___ every 8 hours as needed.
While you were here a head CT was done. It did not show any 
abnormalities.
You should not take hormone replacement medications as they may 
worsen your migraines given that you have visual changes 
associated with your headaches. 
Avoid NSAIDS such as Ibuprofen (Motrin) and Asprin.
 
Followup Instructions:
___